US08026257B2
(±)-7-(1-((4-Phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole.
(±)-tert-Butyl 4-phenyl-4-((1-(5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate (62 mg, 0.098 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 1.5 mL) and stirred at room temperature for 3 h. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 41 mg (quant.). 1H-NMR (CDCl3, 500 MHz) δ 10.03 (bs, 1H), 8.08 (m, 1H), 7.95 (m, 1H), 7.32-7.55 (m, 5H), 7.26 (m, 1H), 4.66 (m, 1H), 3.54 (m, 2H), 3.36 (m, 2H), 2.72-3.06 (m, 4H), 2.36 (m, 1H), 2.16 (m, 1H), 1.97 (m, 1H), 1.85 (m, 1H), 1.49 (m, 3H); 13C-NMR (CDCl3, 126 MHz) δ 143.8, 138.1, 135.2, 128.8, 127.5, 127.1, 126.8, 124.7 (q, J=272 Hz), 123.3, 119.7 (q, J=3.8 Hz), 118.1 (q, J=3.8 Hz), 79.2, 78.3, 42.8, 42.6, 41.7, 33.8, 33.7, 22.2. Mass spec.: 404.19 (MH)+. Accurate mass spec.: m/z 404.1960 [MH]+, Δ=2.5 ppm.

reactant | (±)-tert-Butyl 4-phenyl-4-((1-(5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate | 0.098 mmol, 62 mg | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C(F)(F)F | C33H46F3N3O4Si
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-7-(1-((4-Phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole | C1(=CC=CC=C1)C1(CCNCC1)COC(C)C=1C=C(C=C2C=NNC12)C(F)(F)F | C22H24F3N3O
